US06372740B1
Preparation of 6-chloro-N-ethyl-8,9-dihydro-9-methyl-8-oxo-2-phenyl-N-phenyl-7H-purin-7-acetamide
To a mixture of 6-chloro-7,9-dihydro-9-methyl-2-phenyl-8H-purin-8-one (1.6 g), potassium carbonate (1.0 g) and dimethylformamide (15 ml) is added 2-chloro-N-ethyl-N-phenylacetamide (1.4 g) at room temperature, and the mixture is stirred at the same temperature for two hours. To the reaction mixture is added water, and the precipitates are collected by filtration, washed with water, and purified by silica gel column chromatography (eluent; chloroform), and recrystallized from ethanol to give the desired compound (1.8 g).

reactant | 6-chloro-7,9-dihydro-9-methyl-2-phenyl-8H-purin-8-one | 1.6 g | ClC1=C2NC(N(C2=NC(=N1)C1=CC=CC=C1)C)=O | C12H9ClN4O
reactant | potassium carbonate | 1.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
reactant | 2-chloro-N-ethyl-N-phenylacetamide | 1.4 g | ClCC(=O)N(C1=CC=CC=C1)CC | C10H12ClNO
solvent | water | O | H2O
product | 6-chloro-N-ethyl-8,9-dihydro-9-methyl-8-oxo-2-phenyl-N-phenyl-7H-purin-7-acetamide | 1.8 g | ClC1=C2N(C(N(C2=NC(=N1)C1=CC=CC=C1)C)=O)CC(=O)N(C1=CC=CC=C1)CC | C22H20ClN5O2
